US07329686B2
a) 3-Bromo-5-methyl-2-thiophenecarbonitrile
To a suspension of 3-bromo-5-methyl-2-thiophenecarboxaldehyde (500 mg) in water (10 ml) was added hydroxylamine-O-sulfonic acid (330 mg). The mixture was heated to 50° C. for 12 h and allowed to cool. The mixture was then extracted with ethyl acetate (3×50 ml). The combined organic layers were washed (brine), dried (MgSO4), filtered and evaporated to leave the sub-title compound (410 mg) as a brown solid.

reactant | 3-bromo-5-methyl-2-thiophenecarboxaldehyde | 500 mg | BrC1=C(SC(=C1)C)C=O | C6H5BrOS
reactant | hydroxylamine-O-sulfonic acid | 330 mg | NOS(=O)(=O)O | H3NO4S
solvent | water | 10 ml | O | H2O
product | 3-Bromo-5-methyl-2-thiophenecarbonitrile | 410 mg | BrC1=C(SC(=C1)C)C#N | C6H4BrNS
